US07034045B1
Preparation of [2-Hydroxy-2-(4-methoxyphenyl)propyl][(methylethyl)sulfonyl]amine
In a 500 mL-3n flask fitted with a stirrer and thermometer, 2.53 g. of propanesulfonyl chloride was added dropwise to 3.00 g. of 1-amino-2-(4-methoxyphenyl)propan-2-ol and 2.70 g. of DBU in THF (200 mL) while stirring at 0° C. under a nitrogen atmosphere. The reaction was allowed to warm to room temperature and stirred overnight at this temperature. In the morning, reaction was concentrated under reduced vacuum. The resulting oil was taken into ethyl acetate and the organic layer was washed two times with H2O, dried over Na2SO4, and concentrated under reduced vacuum to yield 3.61 g. as a solid. This material was purified via silica gel chromatography employing the Water's prep. 2000 and eluting with a solvent of hexane/ethyl acetate 9:1 to yield intermediate title compound (2.71 g, 57%) as a white solid. Ion spray M.S. 286.2 (M*−1).

reactant | propanesulfonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | 1-amino-2-(4-methoxyphenyl)propan-2-ol | NCC(C)(O)C1=CC=C(C=C1)OC | C10H15NO2
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [2-Hydroxy-2-(4-methoxyphenyl)propyl][(methylethyl)sulfonyl]amine | 2.71 g, 57% | OC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)OC | C13H21NO4S
